US03968142
To a solution of 2.5 g of sodium in 50 ml of ethanol there is added dropwise a mixture of 23.4 g of 3-chloro-4-cyclohexyl-phenylacetonitrile and 10 g of acrylic acid ethyl ester. The solution is boiled overnight and then poured into a mixture of 10 ml of glacial acetic acid and 150 ml of water. The ethanol is evaporated and the residue distilled in a high vacuum to obtain 4-(3-chloro-4-cyclohexylphenyl)-4-cyano-butyric acid ethyl ester boiling at 200°-203°C under a pressure of 0.35 mm of Hg.

reactant | sodium | 2.5 g | [Na] | Na
reactant | 3-chloro-4-cyclohexyl-phenylacetonitrile | 23.4 g | ClC=1C=C(C=CC1C1CCCCC1)CC#N | C14H16ClN
reactant | acrylic acid ethyl ester | 10 g | C(C)OC(C=C)=O | C5H8O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 4-(3-chloro-4-cyclohexylphenyl)-4-cyano-butyric acid ethyl ester | C(C)OC(CCC(C#N)C1=CC(=C(C=C1)C1CCCCC1)Cl)=O | C19H24ClNO2
